US05849750
A solution of tert-butyldimethylsilylacetylene (14.5 g, 103 mmol, 1 equiv), n-propyl amine (42.5 mL, 517 mmol, 5.00 equiv), and (Z)-1,2-dichloroethene (32.5 mL, 413 mmol, 4.00 equiv) in ether (150 mL) was deoxygenated at -78° C. by alternately evacuating the reaction vessel and flushing with argon (8×). The deoxygenated solution was transferred to an ice bath and copper iodide (2.95 g, 15.5 mmol, 0.15 equiv) was added. The mixture was cooled to -78° C. and was deoxygenated as above. In a similar fashion, bis(triphenylphosphine)palladium(II) chloride (3.64 g, 5.17 mmol, 0.05 equiv) was added at 0° C. and the reaction solution was deoxygenated at -78° C. The deoxygenated reaction mixture was warmed to 23° C. and was stirred at that temperature for 3 h. The product solution was washed with 1:1 saturated aqueous potassium carbonate solution:saturated aqueous ammonium chloride solution (3×150 mL), was dried over sodium sulfate, and was concentrated. The residue was purified by distillation under reduced pressure (bp 60°-65° C., mmHg) to afford (Z)-1-chloro-4-(tert-butyldimethylsilyl)-1-buten-3-yne as a clear oil (12.5 g, 60%).

reactant | tert-butyldimethylsilylacetylene | 103 mmol, 14.5 g, 1 equiv | [Si](C)(C)(C(C)(C)C)C#C | C8H16Si
reactant | n-propyl amine | 517 mmol, 42.5 mL, 5.00 equiv | C(CC)N | C3H9N
reactant | (Z)-1,2-dichloroethene | 413 mmol, 32.5 mL, 4.00 equiv | Cl\C=C/Cl | C2H2Cl2
solvent | ether | 150 mL | CCOCC | C4H10O
catalyst | copper iodide | 15.5 mmol, 2.95 g, 0.15 equiv | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 5.17 mmol, 3.64 g, 0.05 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (Z)-1-chloro-4-(tert-butyldimethylsilyl)-1-buten-3-yne | 12.5 g, 60% | Cl\C=C/C#C[Si](C)(C)C(C)(C)C | C10H17ClSi
